US07456164B2
4-{4-[(3-pyrrolidin-1-ylpropyl)thio]phenyl}tetrahydro-2H-pyran-4-carbonitrile
2,6-Lutidine (3.33 ml, 28.6 mmol) was added to a solution of 4-[4-(methylsulfinyl)phenyl]tetrahydro-2H-pyran-4-carbonitrile (2.3 g, 9.23 mmol) in acetonitrile (70 ml). The mixture was cooled in an ice-acetone bath and trifluoroacetic anhydride (3.87 ml, 27.69 mmol) added slowly. The solution was stirred at this temperature under nitrogen for 3 hours. The reaction mixture was then concentrated in vacuo and the residue taken up in methanol (7 ml). Triethylamine (7 ml) was added at 0° C. and the mixture stirred at 0° C. for 30 minutes. N,N-Dimethylformamide (10 ml) was added at 0° C., followed by potassium carbonate (2.8 g, 20.31 mmol) and 1-(3-chloro-propyl)-pyrrolidine (2.72 g, 18.46 mmol) in N,N-dimethylformamide (10 ml). The mixture was then warmed to room temperature and stirred for 18 hours. The reaction mixture was concentrated in vacuo. The residue was taken up in water (50 ml) and extracted with ethyl acetate (2×150 ml). The organic layers were combined, dried over sodium sulphate, filtered and concentrated in vacuo. The crude product was purified by flash chromatography on silica gel eluting with dichloromethane:methanol:ammonia (97:3:0.3 to 95:5:0.5 by volume) to provide the title compound (2.62 g, 86%) as a solid. 1H NMR (400 MHz, CDCl3) δ 1.77-1.80 (m, 4H), 1.84-1.91 (m, 2H), 2.01-2.14 (m, 4H), 2.48-2.52 (m, 4H), 2.58 (t, 2H), 2.99 (t, 2H), 3.89 (t, 2H), 4.06-4.10 (m, 2H), 7.34-7.39 (m, 4H). LRMS APCI+ m/z 331 [MH]+.

reactant | 2,6-Lutidine | 28.6 mmol, 3.33 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | 4-[4-(methylsulfinyl)phenyl]tetrahydro-2H-pyran-4-carbonitrile | 9.23 mmol, 2.3 g | CS(=O)C1=CC=C(C=C1)C1(CCOCC1)C#N | C13H15NO2S
reactant | trifluoroacetic anhydride | 27.69 mmol, 3.87 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | potassium carbonate | 20.31 mmol, 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(3-chloro-propyl)-pyrrolidine | 18.46 mmol, 2.72 g | ClCCCN1CCCC1 | C7H14ClN
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-{4-[(3-pyrrolidin-1-ylpropyl)thio]phenyl}tetrahydro-2H-pyran-4-carbonitrile | 2.62 g, 86% | N1(CCCC1)CCCSC1=CC=C(C=C1)C1(CCOCC1)C#N | C19H26N2OS
